US04801714
1,1-Diethyl-3-(1,6-di-n-propyl-8α-ergolinyl) urea
Under nitrogen, 2 g of 1,1-diethyl-3-(6-n-propyl-8α-ergolinyl)urea, 2.7 g of pulverized KOH, 217 mg of tetrabutylammonium hydrogen sulfate, and 5.5 ml of n-propyl iodide are stirred in 100 ml of absolute tetrahydrofuran for 5 hours at room temperature. After adding 50 ml of H2O, the mixture is extracted with ethyl acetate, rinsed, and dried, thus obtaining 1.8 g (80% of theory) as an oil [α]D =+2.6° (c=0.5 CHCl3)

reactant | 1,1-diethyl-3-(6-n-propyl-8α-ergolinyl)urea | 2 g | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)CCC)CC | C22H32N4O
reactant | KOH | 2.7 g | [OH-].[K+]
reactant | n-propyl iodide | 5.5 ml | C(CC)I | C3H7I
reactant | H2O | 50 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 217 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,1-Diethyl-3-(1,6-di-n-propyl-8α-ergolinyl) urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)CCC)CCC)CC | C25H38N4O
